US07320992B2
2-(4-t-Butyl-phenyl)-7-hydroxy-2,3-dihydro-isoindol-1-one (0.217 g) was dissolved into 10 mL of CH2Cl2. Et3N (1.0 mL) and N-phenyltrifluoromethanesulfonimide (0.334 g) were added and the solution was stirred at RT for overnight. The solvent was removed and the residue was taken into CH2Cl2 and washed with saturated NaHCO3, dried over Na2SO4, filtered and evaporated to yield an off-white solid as crude material. The crude was purified by silica gel chromatography (70 g, 10-30% EtOAc/hexanes) to afford trifluoromethanesulfonic acid 2-(4-t-butyl-phenyl)-3-oxo-2,3-dihydro-1H-isoindol-4-yl ester as a white solid.

reactant | 2-(4-t-Butyl-phenyl)-7-hydroxy-2,3-dihydro-isoindol-1-one | 0.217 g | C(C)(C)(C)C1=CC=C(C=C1)N1C(C2=C(C=CC=C2C1)O)=O | C18H19NO2
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
reactant | N-phenyltrifluoromethanesulfonimide | 0.334 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | Et3N | 1.0 mL | CCN(CC)CC | C6H15N
product | trifluoromethanesulfonic acid 2-(4-t-butyl-phenyl)-3-oxo-2,3-dihydro-1H-isoindol-4-yl ester | C(C)(C)(C)C1=CC=C(C=C1)N1CC2=CC=CC(=C2C1=O)OS(=O)(=O)C(F)(F)F | C19H18F3NO4S
